US04898874
5-Chloro-7-[2-oxo-2-(4-phenyl-1-piperazinyl)ethyl]-3-phenyl-2,1-benzisoxazole
The title compound is prepared by reacting the acid chloride of 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid with N-phenyl-piperazine in an aprotic solvent and washing the reaction mixture with sodium bicarbonate solution.

reactant | 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(=O)O | C15H10ClNO3
reactant | N-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 5-Chloro-7-[2-oxo-2-(4-phenyl-1-piperazinyl)ethyl]-3-phenyl-2,1-benzisoxazole | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(N1CCN(CC1)C1=CC=CC=C1)=O | C25H22ClN3O2
